US05013749
5-(4-Fluorophenyl)-4-phenyl-2-trifluoromethyl-1H-imidazole
A mixture containing impure 2-bromo-2-(4-fluorophenyl)-1-phenylethanone (13.07 g) and trifluoroacetamidine (5.00 g) was heated at 60° under nitrogen and with stirring for 19 h. More trifluoroacetamidine (2.00 g) was added and after a further 3 h the mixture was allowed to cool to room temperature and dissolved in chloroform/methanol before purifying by FCC eluting with System A (1:9) to give the title compound (4.60 g) as a pale yellow solid. δ(DMSO-d6) 7.16 and 7.2-7.6 (t, J 9 Hz and m, aromatic protons), 13.90 (bs, NH).

reactant | 2-bromo-2-(4-fluorophenyl)-1-phenylethanone | 13.07 g | BrC(C(=O)C1=CC=CC=C1)C1=CC=C(C=C1)F | C14H10BrFO
reactant | trifluoroacetamidine | 5.00 g | FC(C(=N)N)(F)F | C2H3F3N2
reactant | trifluoroacetamidine | 2.00 g | FC(C(=N)N)(F)F | C2H3F3N2
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 5-(4-Fluorophenyl)-4-phenyl-2-trifluoromethyl-1H-imidazole | 4.60 g | FC1=CC=C(C=C1)C1=C(N=C(N1)C(F)(F)F)C1=CC=CC=C1 | C16H10F4N2
